US07223769B2
In 3 ml of chloroform was dissolved 0.5 g of 4-(2-pentynyloxy)-6-(2-hydroxy-1,2-dimethylpropyloxy)pyrimidine, to which 0.18 g of pyridine was added and 0.27 g of thionyl chloride was added dropwise at −13° C., followed by stirring for 1.5 hours. The reaction mixture was then poured into water, which was extracted three times with chloroform. The combined organic layers were washed with a saturated aqueous sodium hydrogencarbonate solution, a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated. The residue was subjected to silica gel column chromatography to give 0.3 g of 4-(2-pentynyloxy)-6-(1,2-dimethyl-2-propenyloxy)pyrimidine.

reactant | 4-(2-pentynyloxy)-6-(2-hydroxy-1,2-dimethylpropyloxy)pyrimidine | 0.5 g | C(C#CCC)OC1=NC=NC(=C1)OC(C(C)(C)O)C | C14H20N2O3
reactant | pyridine | 0.18 g | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 0.27 g | S(=O)(Cl)Cl | Cl2OS
reactant | water | O | H2O
solvent | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-(2-pentynyloxy)-6-(1,2-dimethyl-2-propenyloxy)pyrimidine | 0.3 g | C(C#CCC)OC1=NC=NC(=C1)OC(C(=C)C)C | C14H18N2O2
